US08648066B2
To a solution of 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoic acid (0.50 g, 1.07 mmol) and DMF (20 μL) in chloroform (15 mL) was added drop wise oxalyl chloride (0.35 mL, 4.0 mmol). The reaction mixture was refluxed for 15 min, and then concentrated to give 4-(4-{5-[(4-fluorophenyl)-methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoyl chloride as an oil.

reactant | 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoic acid | 1.07 mmol, 0.50 g | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C(=O)O)C=C2 | C28H24FN3O3
reactant | DMF | 20 μL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 4.0 mmol, 0.35 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-{5-[(4-fluorophenyl)-methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoyl chloride | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C(=O)Cl)C=C2 | C28H23ClFN3O2
